US07691898B2
(2) [5-(4-Ethylbenzyl)-2-hydroxybenzyl]phosphonic acid diethylester
To a solution of [2-benzyloxy-5-(4-ethylbenzyl)benzyl]phosphonic acid diethylester (1.03 g) in methanol (10.0 mL) was added 5% Pd—C (0.10 g), and the reaction mixture was stirred for 5 hr at room temperature under hydrogen gas atmosphere. After filtration and evaporation, the residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=2/3) to give the title compound (0.80 g) as a colorless oil.

reactant | [2-benzyloxy-5-(4-ethylbenzyl)benzyl]phosphonic acid diethylester | 1.03 g | C(C)OP(OCC)(=O)CC1=C(C=CC(=C1)CC1=CC=C(C=C1)CC)OCC1=CC=CC=C1 | C27H33O4P
solvent | methanol | 10.0 mL | CO | CH4O
catalyst | Pd—C | 0.10 g | [Pd] | Pd
product | [5-(4-Ethylbenzyl)-2-hydroxybenzyl]phosphonic acid diethylester | 0.80 g | C(C)OP(OCC)(=O)CC1=C(C=CC(=C1)CC1=CC=C(C=C1)CC)O | C20H27O4P
